US07732460B2
(d) 3-Fluoro-4-methylidene-4,5-dihydro-7H-pyrrolo[3,2,1-de]-1,5-naphthyridin-7-one
A mixture of 8-[1-(chloromethyl)ethenyl]-7-fluoro-2-(methyloxy)-1,5-naphthyridine (4.9 g, 19.5 mmol) and sodium iodide (29 g, 195 mmol) in acetone (100 ml) was heated to reflux for 18 hours. The mixture was evaporated and the residue partitioned between water (200 ml) and dichloromethane (200 ml). The aqueous phase was further extracted with dichloromethane (2×200 ml) and the combined dichloromethane extracts washed with water (2×200 ml) dried over magnesium sulphate and evaporated. The resulting solid was triturated with ethyl acetate (50 ml) and filtered and washed with ethyl acetate (20 ml) affording a brown solid. This material was then dissolved in ethyl acetate and filtered through a plug of silica. Evaporation afforded a solid (1.4 g, 36%).

reactant | 8-[1-(chloromethyl)ethenyl]-7-fluoro-2-(methyloxy)-1,5-naphthyridine | 19.5 mmol, 4.9 g | ClCC(=C)C=1C(=CN=C2C=CC(=NC12)OC)F | C12H10ClFN2O
reactant | sodium iodide | 195 mmol, 29 g | [I-].[Na+]
solvent | acetone | 100 ml | CC(=O)C | C3H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-Fluoro-4-methylidene-4,5-dihydro-7H-pyrrolo[3,2,1-de]-1,5-naphthyridin-7-one | 1.4 g, 36% | FC=1C=NC=2C=CC(N3C2C1C(C3)=C)=O | C11H7FN2O
